US07504513B2
2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-phenyl-thiazole-5-carboxylic acid dimethylamide was prepared from 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-phenyl-thiazole-5-carboxylic acid ethyl ester (48.8 mg, 0.12 mmol) and dimethyl amine in methanol (2 molar) as described above in the general amide formation procedure. Product was isolated by preparative HPLC:15 mg, 30%. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.81 (s, 1 H); 7.84 (s, 1 H); 7.73-7.79 (m, 2H); 7.44-7.59 (m, 3 H); 7.40 (s, 1 H); 3.91 (s, 3 H, NCH3), 3.86 (s, 3 H); 3.01 (s, 3 H); 2.74 (s, 3 H). MS M/z 409 (M+1).

reactant | 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 0.12 mmol, 48.8 mg | C(C)OC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)C2=CC=CC=C2 | C21H19N3O4S
reactant | dimethyl amine | CNC | C2H7N
solvent | methanol | 2 molar | CO | CH4O
product | 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-phenyl-thiazole-5-carboxylic acid dimethylamide | CN(C(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)C2=CC=CC=C2)C | C21H20N4O3S
